US08372813B2
To a stirring solution of tert-butyl-2-(N-Boc-3-hydroxy-azetidin-3-yl)-acetate (0.86 g, 2.99 mmol) in dioxane (18 mL) was added 3 M HCl (5 mL), and the mixture was heated at 70° C. for 1 h. The reaction mixture was then cooled to 0° C. and it was basified with 2 M NaOH (8 mL), followed by addition of BOC2O (1.0 g, 4.6 mmol). The reaction mixture was allowed to warm to room temperature for 2 h, and was then concentrated to half its total volume on the rotary evaporator. Isopropanol (3 mL) and chloroform (12 mL) were then added and the mixture was cooled to 0° C. and slowly acidified to pH 3 with 1M HCl. The organic layer was then separated, dried over Na2SO4, and concentrated to dryness to yield 2-(N-Boc-3-hydroxy-azetidin-3-yl)-acetic acid (0.65 g, 2.81 mmol, 94.0% yield).

reactant | tert-butyl-2-(N-Boc-3-hydroxy-azetidin-3-yl)-acetate | 2.99 mmol, 0.86 g | C(C)(C)(C)OC(CC1(CN(C1)C(=O)OC(C)(C)C)O)=O | C14H25NO5
reactant | HCl | 3 M, 5 mL | Cl | ClH
reactant | NaOH | 2 M, 8 mL | [OH-].[Na+]
reactant | BOC2O | 4.6 mmol, 1.0 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
product | 2-(N-Boc-3-hydroxy-azetidin-3-yl)-acetic acid | 2.81 mmol, 0.65 g, 94.0% yield | C(=O)(OC(C)(C)C)N1CC(C1)(O)CC(=O)O | C10H17NO5
